US07008957B2
8a) 3-tert-Butyl 4-methyl 4-allyl-2,2-dimethyloxazolidine-3,4-dicarboxylate
10 g of 3-tert-butyl 4-methyl 2,2-dimethyloxazolidine-3,4-dicarboxylate were dissolved in 270 ml of THF. After cooling to −78° C., 100 ml of a 0.5 M solution of KHMDS in toluene were added dropwise. After stirring at −78° C. for 30 min, 5.4 ml of allyl bromide were added dropwise. The mixture was allowed slowly to reach room temperature and was stirred for 14 h. The reaction was then stopped by adding 400 ml of saturated ammonium chloride solution. The THF was removed in vacuo and the aqueous phase was extracted 3 times with 150 ml of ethyl acetate each time. The combined organic phases were washed once with 300 ml of saturated sodium chloride solution and dried with MgSO4. The solvents were removed in vacuo and the residue was chromatographed on silica gel.

reactant | 3-tert-butyl 4-methyl 2,2-dimethyloxazolidine-3,4-dicarboxylate | 10 g | CC1(OCC(N1C(=O)OC(C)(C)C)C(=O)OC)C | C12H21NO5
reactant | KHMDS | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | allyl bromide | 5.4 ml | C(C=C)Br | C3H5Br
reactant | ammonium chloride | 400 ml | [Cl-].[NH4+]
solvent | THF | 270 ml | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-tert-Butyl 4-methyl 4-allyl-2,2-dimethyloxazolidine-3,4-dicarboxylate | C(C=C)C1(N(C(OC1)(C)C)C(=O)OC(C)(C)C)C(=O)OC | C15H25NO5
